US07345056B2
13-(4-Chloro-benzenesulfonyl)-4,6,13-triaza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene MS (ES) m/e 350.0 (M+H)
Prepared as described in Example 5 using 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one which was prepared as described in Example 34 and formamidine acetate. See also: Hajos, Gyorgy; Snatzke, Guenther Liebigs Annalen der Chemie 1989, (1), 31-3.

reactant | 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)=CO | C15H16ClNO4S
reactant | formamidine acetate | C(C)(=O)O.C(=N)N
product | 13-(4-Chloro-benzenesulfonyl)-4,6,13-triaza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NC=NC3CC1CCC2 | C16H16ClN3O2S
